*|NET G 1.9726539280000002e-16
C0 G ln_24 2.109374e-17
C1 G ln_13 8.235368740046401e-19
C2 G ln_14 8.235123465812202e-19
C3 G S 7.228056274e-17
C4 G D 7.227243503e-17
C5 G ln_9 1.3027080360599998e-18
C6 G ln_6 1.3027044225899999e-18
C7 G FL_0 3.19861e-19
C8 G FL_1 4.533694e-19
C9 G FL_2 4.531215e-19
C10 G FL_3 3.172654e-19
C11 G ln_8 1.238354316e-17
C12 G ln_7 1.238712651e-17
C13 G FL_4 1.895989848e-19
C14 G FL_5 3.329432029e-19
C15 G FL_6 3.328632102e-19
C16 G FL_7 1.895897098e-19
